Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Asymptomatic
 
Major Surgical or Invasive Procedure:
___:
Aortic valve replacement with a 25 mm
___ Biocor Epic tissue valve.

 
History of Present Illness:
Mr. ___ is a pleasant ___ year old man with a history of 
aortic
stenosis followed by serial echocardiogram, history of
cereobrovascular accident diabetes mellitus, hyperlipidemia, and
hypertension. His most recent echocardiogram in ___
demonstrated severe aortic stenosis with peak and mean gradients
of 71 mmHg and 45 mmHg, respectively. The aortic valve area was
0.7 cm2. There was mild concentric hypertrophy as well as an
aneurysmal interatrial septum. Given the progression of this
aortic stenosis, he was referred to Dr. ___ surgical
evaluation. 

He stated that he currently feels well and denied cardiac
symptoms. He specifically denied fatigue, syncope, dizziness,
lightheadedness, shortness of breath, dyspnea on exertion, chest
pain/pressure, palpitation, orthopnea, paroxysmal nocturnal
dyspnea, or lower extremity edema. 
He presents today for pre-op cardiac cath. 

 
Past Medical History:
Anxiety
Aortic Stenosis
Benign Prostatic Hypertrophy
Cataracts
Cerebrovascular Accident, ___ (no residual deficits)
Cryptorchidism, right
Diabetes Mellitus
Hyperlipidemia
Hypertension
Mitral Regurgitation
Peripheral Neuropathy of Hands, radial distribution bilaterally
Plantar Fasciitis
Tendon Rupture, right ankle
Cataract surgery
Knee Arthroscopy, left

 
Social History:
___
Family History:
+ Premature coronary artery disease
paternal aunt and uncle with MI's

 
Physical Exam:
Admit PE:
BP: 140/82. Heart Rate: 75. Resp. Rate: 12. O2 Saturation%: 100.
Height: 67 inches  Weight: 175 lbs  BSA: 1.91 m2

General: Pleasant man, appears younger than stated age, NAD
Skin: Warm, dry, intact
HEENT: NCAT, PERRLA, EOMI, OP benign, teeth in good repair
Neck: Supple, full ROM, no JVD
Chest: Lungs clear bilaterally
Heart: Regular rate and rhythm, III/VI SEM heard best at LUSB
Abdomen: Normal BS, soft, non-tender, non-distended
Extremities: Warm, well-perfused, no edema
Varicosities: None
Neuro: Grossly intact
Pulses:
Femoral      Right: 2+    Left: 2+
DP           Right: palp  Left: palp
___           Right: palp  Left: palp
Radial       Right: 2+    Left: 2+

Carotid Bruit: transmitted murmur vs. brui
 
Pertinent Results:
___, Intraop TEE
Conclusions  
PREBYPASS 
No atrial septal defect is seen by 2D or color Doppler. There is 
moderate symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. Regional left ventricular 
wall motion is normal. Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. There are three aortic valve 
leaflets. The aortic valve leaflets are severely 
thickened/deformed. There is severe aortic valve stenosis (valve 
area <1.0cm2). Mild to moderate (___) aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. 
Physiologic mitral regurgitation is seen (within normal limits). 
The tricuspid regurgitation jet is eccentric and may be 
underestimated. (miltd to moderate TR)

POSTBYPASS
Biventricular systolic function remains normal. There is a well 
seated, well functioning bioprosthesis in the aortic position. 
No AI is visualized. The study is otherwise unchanged from 
prebypass   

CXR ___ 
Right internal jugular line tip is at the level of lower SVC.  
Bilateral pleural effusions are small, unchanged.  Post 
sternotomy wires are unremarkable.  There is no appreciable 
pneumothorax is seen.  Upper and mid lungs are essentially 
clear. 

LABS:
Admit:
___ 01:27PM BLOOD WBC-7.7 RBC-3.32*# Hgb-9.3*# Hct-27.6*# 
MCV-83 MCH-28.0 MCHC-33.7 RDW-14.7 RDWSD-44.4 Plt ___
___ 01:27PM BLOOD ___ PTT-28.1 ___
___ 02:36PM BLOOD UreaN-15 Creat-0.8 Na-138 K-3.9 Cl-106 
HCO3-24 AnGap-12

Discharge:
___ 09:10AM BLOOD WBC-9.0 RBC-3.40* Hgb-9.7* Hct-29.1* 
MCV-86 MCH-28.5 MCHC-33.3 RDW-15.0 RDWSD-46.9* Plt ___
___ 05:54AM BLOOD Glucose-128* UreaN-23* Creat-1.0 Na-135 
K-3.9 Cl-97
___ 05:54AM BLOOD Mg-2.4
 
Brief Hospital Course:
Mr. ___ was brought to the Operating Room on ___ where 
the patient underwent Aortic valve replacement with a 25 mm ___. 
___ Biocor Epic tissue valve.  Overall the patient 
tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable, weaned from inotropic and 
vasopressor support.  Beta blocker was initiated and the patient 
was gently diuresed toward the preoperative weight.  The patient 
was transferred to the telemetry floor for further recovery.  
Chest tubes and pacing wires were discontinued without 
complication.  The patient was evaluated by the physical therapy 
service for assistance with strength and mobility.  By the time 
of discharge on POD 4 the patient was ambulating freely, the 
wound was healing and pain was controlled with ultram and 
acetaminophen. 
 
Medications on Admission:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 5 mg PO QPM 
3. Carvedilol 12.5 mg PO BID 
4. Finasteride 5 mg PO DAILY 
5. Fish Oil (Omega 3) 1000 mg PO DAILY 
6. GlyBURIDE 5 mg PO BID 
7. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Atorvastatin 5 mg PO QPM 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Lorazepam 0.25 mg PO BID:PRN anxiety 
as prior to admission  
6. Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl 150 mg 1 capsule(s) by mouth once a day Disp 
#*30 Capsule Refills:*0
7. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*20 Tablet Refills:*0
8. GlyBURIDE 5 mg PO BID 
9. Fish Oil (Omega 3) 1000 mg PO DAILY 
10. Carvedilol 25 mg PO BID 
RX *carvedilol [Coreg] 25 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*1
11. Furosemide 40 mg PO DAILY Duration: 5 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0
12. Potassium Chloride 20 mEq PO DAILY Duration: 5 Days 
RX *potassium chloride [Klor-Con M20] 20 mEq 1 tablet(s) by 
mouth once a day Disp #*5 Tablet Refills:*0
13. Acetaminophen ___ mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Aortic stenosis s/p tissue aortic valve replacement

Secondary:
Anxiety
Aortic Stenosis
Benign Prostatic Hypertrophy
Cataracts
Cerebrovascular Accident, ___ (no residual deficits)
Cryptorchidism, right
Diabetes Mellitus
Hyperlipidemia
Hypertension
Mitral Regurgitation
Peripheral Neuropathy of Hands, radial distribution bilaterally
Plantar Fasciitis
Tendon Rupture, right ankle
Past Surgical History:
Cataract surgery
Knee Arthroscopy, left

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with ultram and acetaminophen 
Sternal Incision - healing well, no erythema or drainage
Edema - trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___